US04371708
80 g (2 moles) of sodium hydroxide, dissolved in 100 ml of water, were added dropwise to 174 g (1.5 moles) of 2,2-dimethyl-1-hydroxy-butan-3-one (for the preparation, see Example 2a) and 150 ml (2 moles) of dimethyl sulphate at 40° C. (exothermic, slight cooling). After the addition, the mixture was subsequently stirred at 40° C. for 15 hours and the 2,2-dimethyl-1-methoxy-butan-3-one formed was distilled by means of steam. The aqueous phase was saturated with sodium chloride and the oily constituent was separated off and rectified under reduced pressure. 123.8 g (63% of theory) of 2,2-dimethyl-1-methoxy-butan-3-one of boiling point 48°-62° C./5-8 mm Hg were obtained.

reactant | sodium hydroxide | 2 moles, 80 g | [OH-].[Na+]
reactant | 2,2-dimethyl-1-hydroxy-butan-3-one | 1.5 moles, 174 g | CC(CO)(C(C)=O)C | C6H12O2
reactant | dimethyl sulphate | 2 moles, 150 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 100 ml | O | H2O
product | 2,2-dimethyl-1-methoxy-butan-3-one | CC(COC)(C(C)=O)C | C7H14O2
